US07893090B2
(RS)-1-[2-(4-Bromo-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
The title compound (0.45 g) was prepared from 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride (0.89 g) and 2-(4-bromo-benzofuran-2-ylmethyl)-piperidine, D72 (0.88 g) by a procedure similar to that described for Example 1.

reactant | 5-(4-fluoro-phenyl)-2-methyl-thiazole-4-carbonyl chloride | 0.89 g | FC1=CC=C(C=C1)C1=C(N=C(S1)C)C(=O)Cl | C11H7ClFNOS
reactant | 2-(4-bromo-benzofuran-2-ylmethyl)-piperidine | BrC1=CC=CC2=C1C=C(O2)CC2NCCCC2 | C14H16BrNO
product | (RS)-1-[2-(4-Bromo-benzofuran-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 0.45 g | BrC1=CC=CC2=C1C=C(O2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C | C25H22BrFN2O2S
